US04474964
A mixture of 20 g of 2-phenoxyethyl bromide thus obtained, 7.92 g of piperidine and 12.86 g of potassium carbonate was added into 100 ml of ethyl alcohol and stirred for 6 hours at 100° C. The mixture obtained was filtered and condensed under reduced pressure to give 18.4 g of 1-(2-phenoxyethyl)piperidine having a boiling point of 111° C. to 112° C. at 7 mmHg in a yield of 90%.

reactant | 2-phenoxyethyl bromide | 20 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | piperidine | 7.92 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 12.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 1-(2-phenoxyethyl)piperidine | 18.4 g, yield of 90% | O(C1=CC=CC=C1)CCN1CCCCC1 | C13H19NO
